US08008283B2
In a similar manner to Example 10, piretanide can be reacted with cetyltrimethylammonium hydroxide in water to yield cetyltrimethylammonium 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate.

reactant | piretanide | C=1C=CC(=CC1)OC=2C(=CC(=CC2S(=O)(=O)N)C(=O)O)N3CCCC3 | C17H18N2O5S
reactant | cetyltrimethylammonium hydroxide | [OH-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | water | O | H2O
product | cetyltrimethylammonium 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate | NS(=O)(=O)C=1C=C(C(=O)[O-])C=C(C1OC1=CC=CC=C1)N1CCCC1.C(CCCCCCCCCCCCCCC)[N+](C)(C)C | InChI=1S/C19H42N.C17H18N2O5S/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20(2,3)4;18-25(22,23)15-11-12(17(20)21)10-14(19-8-4-5-9-19)16(15)24-13-6-2-1-3-7-13/h5-19H2,1-4H3;1-3,6-7,10-11H,4-5,8-9H2,(H,20,21)(H2,18,22,23)/q+1;/p-1
